US05506089
A mixture of 0.91 g of 4-styrylpyridine and 2.44 g of 1,6-dibromohexane in 15 ml of ethylacetate was stirred and refluxed for 3 hours then filtered while hot. The crystals obtained were washed with an additional portion of ethylacetate and dried in vacuo to give 1.84 g of N(6-bromohexyl)-4-styrylpyridinium bromide. λmax 343 nm (water). NMR (CDCl3, p.p.m.): 9.4 (d.,2H), 8.2 (d.,2H), 7.2-7.8 (m.,7H), 4.9(t.,2H), 3.35(T.,2H), 1.2-2.2 (br.m., 8H).

reactant | 4-styrylpyridine | 0.91 g | C(=CC1=CC=CC=C1)C1=CC=NC=C1 | C13H11N
reactant | 1,6-dibromohexane | 2.44 g | BrCCCCCCBr | C6H12Br2
solvent | ethylacetate | 15 ml | C(C)OC(C)=O | C4H8O2
product | N(6-bromohexyl)-4-styrylpyridinium bromide | 1.84 g | [Br-].BrCCCCCC[N+]1=CC=C(C=C1)C=CC1=CC=CC=C1 | InChI=1S/C19H23BrN.BrH/c20-14-6-1-2-7-15-21-16-12-19(13-17-21)11-10-18-8-4-3-5-9-18;/h3-5,8-13,16-17H,1-2,6-7,14-15H2;1H/q+1;/p-1
